US05023255
(ii) Dihydro-1-(3-methylphenyl)-1,2,4-triazine-3,5-(2H,4H)-dione
A solution of sodium methoxide (2.17M in methanol; 3 ml) was added to a stirred solution of methyl [2-(aminocarbonyl)-1-(3-methylphenyl)hydrazino]acetate (0.5 g) in methanol (1 ml), and the mixture was stirred at 20° for 1.0 h. Water (20 ml) was added, followed by pH 6.5 phosphate buffer solution (30 ml), and the mixture was extracted with ethyl acetate (3×80 ml). The combined extracts were washed with water (2×80 ml) and saturated brine (80 ml), dried, and evaporated in vacuo to give a solid which was triturated with ether (30 ml) to give the title compound (261 mg), m.p. 245°-247°.

reactant | sodium methoxide | 2.17M, 3 ml | C[O-].[Na+]
reactant | methyl [2-(aminocarbonyl)-1-(3-methylphenyl)hydrazino]acetate | 0.5 g | NC(=O)NN(C1=CC(=CC=C1)C)CC(=O)OC | C11H15N3O3
reactant | Water | 20 ml | O | H2O
reactant | phosphate | 30 ml, pH 6.5 | P(=O)([O-])([O-])[O-]
solvent | methanol | 1 ml | CO | CH4O
product | Dihydro-1-(3-methylphenyl)-1,2,4-triazine-3,5-(2H,4H)-dione | 261 mg | CC=1C=C(C=CC1)N1NC(NC(C1)=O)=O | C10H11N3O2
